simulator lang=spectre
global 0

ahdl_include "./dut/ptat_ctat_reference_generator.va"

// Public feedback sweeps below-range, nominal, and above-range inputs.
V_clk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2.5n delay=600p rise=40p fall=40p width=1.1n
V_rst (rst 0) vsource type=pwl wave=[0 0.9 3.2n 0.9 3.3n 0 76n 0]
V_vin (vin 0) vsource type=pwl wave=[0 -0.08 20n -0.08 20.2n 0.50 44n 0.50 44.2n 1.02 76n 1.02]

XDUT (clk rst vin out metric) ptat_ctat_reference_generator


simulatorOptions options evas_profile=balanced

tran tran stop=76n maxstep=125p
save clk rst vin out metric
